US06211215B1
A mixture of 3-(4-benzyloxyphenyl)propyl methanesulfonate (55.0 g), imidazole (17.6 g), potassium carbonate (35.7 g) and N,N-dimethylformamide (500 ml) was stirred for 6 hours at 80° C. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give 1-[3-(4-benzyloxyphenyl)propyl]imidazole (34.7 g, 69%). Recrystallization from ethyl acetate-hexane gave colorless needles, mp 80-81° C.

reactant | 3-(4-benzyloxyphenyl)propyl methanesulfonate | 55.0 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H20O4S
reactant | imidazole | 17.6 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 35.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[3-(4-benzyloxyphenyl)propyl]imidazole | 34.7 g, 69% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCN1C=NC=C1 | C19H20N2O
